US08026257B2
tert-Butyl 4-((1-(6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
A solution of tert-butyl 4-((1-(6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)vinyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (470 mg, 0.616 mmol) in 1,2-dichloroethane (20 mL) was degassed by passing a stream of nitrogen through the solution for 1 h. The reaction was quickly treated with (−)-1,2-Bis((2R,5R)-2,5-diethylphospholano)benzene(cyclooctadiene)rhodium(1)tetrafluoroborate (50 mg, 0.076 mmol) and flushed with nitrogen for 10 minutes longer. The vessel was pressurized to 60 psi of hydrogen and shaken for 24 h. The mixture was concentrated and the crude mixture purified by column chromatography (8%→25% ethyl acetate/n-hexane) to give 420 mg (89%) as a foam semi-solid. 1H-NMR (CDCl3, 500 MHz) δ 7.21 (dd, 8.9, 5.2 Hz, 2H), 7.02 (d, J=1.8 Hz, 1H), 6.98 (dd, J=8.9, 8.6 Hz, 2H), 6.78 (d, J=2.1 Hz, 1H), 5.35 (d, J=11.6 Hz, 1H), 5.23 (m, 2H), 5.03 (d, J=11.6 Hz, 1H), 4.94 (q, J=6.4 Hz, 1H), 3.69 (m, 2H), 3.57 (t, J=8.1 Hz, 2H), 3.51 (m, 2H), 3.18 (m, 2H), 3.01 (m, 2H), 2.07 (m, 2H), 1.84 (m, 2H), 1.42 (s, 9H), 1.34 (d, J=6.7 Hz, 3H), 0.70-0.97 (m, 4H), −0.05 (s, 9H), −0.06 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 161.4 (d, J=246 Hz), 155.0, 154.8, 138.6, 130.3, 128.7 (d, J=7.7 Hz), 128.5, 128.3, 124.5, 120.0, 115.1 (d, J=21 Hz), 108.3, 79.4, 76.8, 71.5, 71.4, 70.9, 66.5, 66.0, 41.1, 40.2, 40.1, 32.2, 32.0, 28.6, 23.3, 18.0, 17.9, −1.4. Mass spec.: 786.01 (MNa)+.

reactant | tert-butyl 4-((1-(6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)vinyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.616 mmol, 470 mg | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1)C(=C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C38H57ClFN3O6Si2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
catalyst | (−)-1,2-Bis((2R,5R)-2,5-diethylphospholano)benzene(cyclooctadiene)rhodium(1)tetrafluoroborate | 0.076 mmol, 50 mg | [B-](F)(F)(F)F.CC[C@@H]1CC[C@H](P1C2=CC=CC=C2P3[C@@H](CC[C@H]3CC)CC)CC.C1C[CH][CH]CC[CH][CH]1.[Rh]
product | tert-Butyl 4-((1-(6-chloro-2-oxo-1,3-bis((2-(trimethylsilyl)ethoxy)methyl)-2,3-dihydro-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C(C2=C(N(C(N2COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C38H59ClFN3O6Si2
